US07718652B2
In an analogous manner to Example 1 step 7, 3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (456 mg) was coupled to m-methoxyphenylboronic acid to provide 3-(3-chloropropyl)-1-(3-methoxyphenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (63 mg):

reactant | 3-(3-chloropropyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 456 mg | ClCCCN1S(NC2=C(C1)C=CC=C2)(=O)=O | C10H13ClN2O2S
reactant | m-methoxyphenylboronic acid | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 3-(3-chloropropyl)-1-(3-methoxyphenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 63 mg | ClCCCN1S(N(C2=C(C1)C=CC=C2)C2=CC(=CC=C2)OC)(=O)=O | C17H19ClN2O3S
